US04892872
A mixture of 10 g of 6-chloro-3,4-dihydro-2-methyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid, 150 ml of methanol and 5 ml of concentrated sulfuric acid is refluxed under heating with stirring for 40 hours, and then cooled. The precipitated crystals are collected by filtration, washed with methanol and dried to give 9.5 g of methyl 6-chloro-3,4-dihydro-2-methyl-3-oxo-2H-1,4-benzoxazine-8-carboxylate, melting at 186°-189° C.

reactant | 6-chloro-3,4-dihydro-2-methyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid | 10 g | ClC=1C=C(C2=C(NC(C(O2)C)=O)C1)C(=O)O | C10H8ClNO4
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 150 ml | CO | CH4O
product | methyl 6-chloro-3,4-dihydro-2-methyl-3-oxo-2H-1,4-benzoxazine-8-carboxylate | 9.5 g | ClC=1C=C(C2=C(NC(C(O2)C)=O)C1)C(=O)OC | C11H10ClNO4
